US05498786
Alternatively this sequence can be combined in one step. (R)-Methyl-2-hydroxydecanoate (0.209 g, 1.03 mmol) was dissolved in acetonitrile (2 mL). To this solution was added methanesulfonic acid (74 μL, 1.14 mmol) and triethylamine (158 μL, 1.14 mmol) followed by diisopropyl azodicarboxylate (97%, 0.33 mL, 1.65 mmol) and finally, triphenylphosphine (0.433 g, 1.65 mmol). The reaction was heated to a bath temperature of 90° C. for 4 hours and then cooled to room temperature (rt). Hexanethiol (0.31 mL, 2.07 mmol) and tetramethyl guanidine (0.26 mL, 2.07 mmol) were added and the reaction stirred at rt for 1 hour the reaction was extracted with hexane (20 mL) and washed with 0.5N HCl (20 mL), 1N HCl (15 mL), and H2O (15 mL), dried (MgSO4) and concentrated to an oil. The oil was purified by silica gel chromatography using 30 to 1 hexane to ethyl acetate as the eluent to give (R)-methyl-2-hexylthiodecanoate (0.315 g, 1.03 mmol, 100%). [α]D =+53.9° (c=1.3, MeOH).

reactant | (R)-Methyl-2-hydroxydecanoate | 1.03 mmol, 0.209 g | COC([C@@H](CCCCCCCC)O)=O | C11H22O3
reactant | methanesulfonic acid | 1.14 mmol, 74 μL | CS(=O)(=O)O | CH4O3S
reactant | triethylamine | 1.14 mmol, 158 μL | C(C)N(CC)CC | C6H15N
reactant | diisopropyl azodicarboxylate | 1.65 mmol, 0.33 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 1.65 mmol, 0.433 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Hexanethiol | 2.07 mmol, 0.31 mL | C(CCCCC)S | C6H14S
reactant | tetramethyl guanidine | 2.07 mmol, 0.26 mL | CN(C(N(C)C)=N)C | C5H13N3
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | (R)-methyl-2-hexylthiodecanoate | 1.03 mmol, 0.315 g, 100% | COC([C@@H](CCCCCCCC)CCCCCC)=S | C17H34OS
